US08754089B2
A mixture of 3-bromo-2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one (10.60 g, 36.36 mmol), potassium acetate (4.283 g, 43.64 mmol), and DMF (138.5 mL) was stirred at 40° C. After 3 h, the mixture was concd under reduced pressure. To the residue was added water (200 mL) and the resulting precipitate was collected by filtration, washed with water (300 mL), and dried to give (3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate as a brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.98 (1H, dd, J=4.9, 2.7 Hz), 8.18 (1 H, ddd, J=9.8, 7.1, 2.8 Hz), 7.86 (1 H, dd, J=9.7, 5.4 Hz), 5.21 (2 H, s), 2.16 (3 H, s); Mass Spectrum (ESI) m/e=315.0 [M+1 (79Br)] and 316.9 [M+1 (81Br)].

reactant | 3-bromo-2-(chloromethyl)-7-fluoro-4H-pyrido[1,2-a]pyrimidin-4-one | 36.36 mmol, 10.60 g | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)CCl | C9H5BrClFN2O
reactant | potassium acetate | 43.64 mmol, 4.283 g | C(C)(=O)[O-].[K+]
reactant | DMF | 138.5 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | (3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate | C(C)(=O)OCC=1N=C2N(C(C1Br)=O)C=C(C=C2)F | C11H8BrFN2O3
